US04719046
A solution of 2-methyl-1-nitropropane (38.7 g, 0.375 mol, prepared by the procedure of N. Kornblum, B. Tunbe, and H. Ungnade, J. Amer. Chem. Soc., 76, 3209 (1954)) and NEt3 (Eastman, 3.79 g, 0.0375 mol) in CH3OH (50 mL) was added dropwise 37% aqueous formaldehyde solution (Mallinckrodt, 76.2 g, 0.938 mol) at a rate such that the reaction mixture temperature did not exceed 30°. After 72 h, the solution was concentrated under vacuum and the residue was dissolved in H2O (250 mL). The solution was continuously extracted for 1 h with CH2Cl2 (1 L). The CH2Cl2 solution was dried (MgSO4), filtered, and concentrated to give 53.3 g (87%) of 2-isopropyl-2-nitro-1,3-propanediol, as a waxy, white solid mp 67°-72° C. (lit. mp 87°-88° B. M. Vanderbilt and H. B. Haas, Ind. Eng. Chem. 32, 34 (1940). In our hands this procedure failed to give the desired compound).

reactant | 2-methyl-1-nitropropane | CC(C[N+](=O)[O-])C | C4H9NO2
reactant | NEt3 | 0.0375 mol, 3.79 g | CCN(CC)CC | C6H15N
reactant | formaldehyde | 0.938 mol, 76.2 g | C=O | CH2O
reactant | CH3OH | 50 mL | CO | CH4O
product | 2-isopropyl-2-nitro-1,3-propanediol | 53.3 g, 87% | C(C)(C)C(CO)(CO)[N+](=O)[O-] | C6H13NO4
